US08563505B2
A solution of 1,3-dibromobenzene (5.3 mL, 43.9 mmol), potassium carbonate (14.0 g, 101 mmol) and 3-vinylphenylboronic acid (5 g, 33.8 mmol) in DME (100 mL) and water (20 mL) (in a pressure vessel) was sparged with nitrogen for 15 min. Pd(PPh3)3 (1.17 g, 1.014 mmol) was added and then the reaction was heated to 80° C. overnight. The reaction was cooled to r.t. and evaporated on the rotovap. The residue was diluted in EtOAc and washed with water then brine, dried over MgSO4, filtered and evaporated to give the crude material. The crude material was purified by flash chromatography on the Biotage (0-5% EtOAc:Hex) to give 3-bromo-3′-vinylbiphenyl (5.21 g, 20.10 mmol, 60% yield) as a clear liquid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 5.33 (d, J=10.79 Hz, 1H) 5.84 (dd, J=17.57, 0.75 Hz, 1H) 6.80 (dd, J=17.57, 10.79 Hz, 1H) 7.32 (t, J=7.78 Hz, 1H) 7.38-7.48 (m, 3H) 7.51 (dddd, J=13.24, 7.84, 1.76, 1.00 Hz, 2H) 7.56-7.61 (m, 1H) 7.76 (t, J=1.88 Hz, 1H).

reactant | 1,3-dibromobenzene | 43.9 mmol, 5.3 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | potassium carbonate | 101 mmol, 14.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-vinylphenylboronic acid | 33.8 mmol, 5 g | C(=C)C=1C=C(C=CC1)B(O)O | C8H9BO2
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | water | 20 mL | O | H2O
product | 3-bromo-3′-vinylbiphenyl | 20.10 mmol, 5.21 g, 60% yield | BrC=1C=C(C=CC1)C1=CC(=CC=C1)C=C | C14H11Br
